US08865704B2
trans-4-[(2-Amino-benzoylamino)-methyl]-cyclohexanecarboxylic acid methyl ester
A solution 0.01 M of trans-4-[(2-Nitro-benzoylamino)-methyl]-cyclohexanecarboxylic acid methyl ester (1.8 g) in MeOH (550 mL) with ˜1% of glacial AcOH (5.5 mL) was submitted to continuous flow rate hydrogenation by H-Cube (ThalesNano®) using a 10% Pd/C cartridge (small cartridge, full hydrogen mode, flowrate of 1 mL/min). Finally, the solvent was removed under reduced pressure to obtain the titled compound as acetate salt (1.9 g, quantitative yield).

reactant | trans-4-[(2-Nitro-benzoylamino)-methyl]-cyclohexanecarboxylic acid methyl ester | 0.01 M, 1.8 g | COC(=O)[C@@H]1CC[C@H](CC1)CNC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C16H20N2O5
reactant | AcOH | 5.5 mL | CC(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 550 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | trans-4-[(2-Amino-benzoylamino)-methyl]-cyclohexanecarboxylic acid methyl ester | COC(=O)[C@@H]1CC[C@H](CC1)CNC(C1=C(C=CC=C1)N)=O | C16H22N2O3
